US06544985B2
3-Oxo-3-(3-pyrazol-1-yl-phenyl)-propionic acid tert.-butyl ester
The title compound was prepared from 3-pyrazol-1-yl-benzoic acid methyl ester [CAS-No. 168618-35-7] by treatment with lithium tert.-butyl acetate according to general procedure K (method b). Obtained as a yellow oil (5.00 g).

reactant | 3-pyrazol-1-yl-benzoic acid methyl ester | COC(C1=CC(=CC=C1)N1N=CC=C1)=O | C11H10N2O2
reactant | lithium tert.-butyl acetate | C(C)(=O)OC(C)(C)C.[Li]
product | 3-Oxo-3-(3-pyrazol-1-yl-phenyl)-propionic acid tert.-butyl ester | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)N1N=CC=C1)=O)=O | C16H18N2O3
